US07291642B2
Analogously to 13b), 3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methyl-N-{3-[phenyl(toluene-4-sulphonyl)amino]propyl}propionamide was prepared from 1.82 g (3.83 mmol) of 3-(4-cyanophenyl)-N-methyl-N-{3-[phenyl(toluene-4-sulphonyl)amino]propyl}propionamide, 122 mg (3.83 mmol) of sulphur and 7 ml of ethylenediamine.

reactant | 3-(4-cyanophenyl)-N-methyl-N-{3-[phenyl(toluene-4-sulphonyl)amino]propyl}propionamide | 3.83 mmol, 1.82 g | C(#N)C1=CC=C(C=C1)CCC(=O)N(CCCN(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)C | C27H29N3O3S
reactant | sulphur | 3.83 mmol, 122 mg | [S] | S
reactant | ethylenediamine | 7 ml | C(CN)N | C2H8N2
product | 3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methyl-N-{3-[phenyl(toluene-4-sulphonyl)amino]propyl}propionamide | N1C(=NCC1)C1=CC=C(C=C1)CCC(=O)N(CCCN(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1)C | C29H34N4O3S
